US07229998B2
Ethyl 2-methyl-2-{4-[({4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)sulfanyl]phenoxy}propanoate
To a 250 ml round-bottom flask equipped with a magnetic stir-bar and N2 inlet was added 5-(chloromethyl)-4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole (7.87 g, 20.09 mmoles, 1 eq) and dry CH3CN (100 ml, 0.27M). Solid cesium carbonate (16.4 g, 50.22 mmoles, 2.5 eq) was added all at once followed by the quick addition of ethyl 2-methyl-2-(4-sulfanylphenoxy)propanoate (5.79 g, 24.11 mmoles, 1.2 eq) in dry CH3CN (10 ml). The reaction was allowed to stir at room temperature for 2 hours at which point the solvent was removed under reduced pressure. The resulting residue was partitioned between EtOAc and 1N NaOH. After the phases were separated the organic fraction was washed with H2O, brine and dried over Na2SO4. After filtration the volatiles were removed in vacuo to yield the titled compound in >100% yield. Sometimes because of the difficult separation between the thiophenol and the product, the crude product was carried forward without purification.

reactant | 5-(chloromethyl)-4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole | 20.09 mmoles, 7.87 g, 1 eq | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C17H17ClF3NO2S
reactant | cesium carbonate | 50.22 mmoles, 16.4 g, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-methyl-2-(4-sulfanylphenoxy)propanoate | 24.11 mmoles, 5.79 g, 1.2 eq | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)S | C12H16O3S
solvent | CH3CN | 10 ml | CC#N | C2H3N
solvent | CH3CN | 0.27M, 100 ml | CC#N | C2H3N
product | Ethyl 2-methyl-2-{4-[({4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)sulfanyl]phenoxy}propanoate | >100% yield | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C29H32F3NO5S2
